US07626021B2
175 mg (0.34 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid was dissolved in 5 mL of glacial acetic acid. 250 μL of 70% perchloric acid was added and the resulting mixture left at ambient temperature for 17 h. The resulting solution was diluted with 85 mL of water and the resulting precipitate filtered off and dried by suction to afford 137 mg (0.36 mmol, 106%) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid as a brown solid. MS: m/z 379.1 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.34 mmol, 175 mg | NC1=C(C(=O)O)C=C(C=C1F)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C26H29FN4O4Si
reactant | perchloric acid | 250 μL | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 85 mL | O | H2O
product | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid | 0.36 mmol, 137 mg, 106% | NC1=C(C(=O)O)C=C(C=C1F)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C20H15FN4O3
